US07514566B2
To a 100 mL round-bottomed flask was added methyl 4-methoxy-3-oxobutanoate (4.43 mL, 34.2 mmol) and DCM (30.00 mL). Sulfuryl chloride (2.91 mL, 35.9 mmol) was added dropwise with a syringe to the reaction mixture. The mixture was then stirred for 1 hour at 20° C. The solution was reduced to an oil under reduced pressure and dissolved in EtOH (50 mL). To this solution was added methyl 2-chloro-4-methoxy-3-oxobutanoate (6.18 g, 34 mmol) and thiourea (1.9 mL, 34 mmol). The reaction was then stirred at reflux for approximately 12 hours. LCMS indicated that the reaction was complete, and the solvent was removed under reduced pressure. Saturated aqueous sodium bicarbonate was added, and the resulting solid was filtered and recrystallized from water and <5 mL EtOH to give methyl 2-amino-4-(methoxymethyl)thiazole-5-carboxylate as rust colored crystals (4.85 g, 68%). LCMS (M+H) 203 calc. for C7H11N2O3S 203.2. 1H NMR (400 MHz, CD3OD): δ ppm 4.64 (s, 2H), 3.77 (s, 3H), 3.37 (s, 3H).

reactant | methyl 4-methoxy-3-oxobutanoate | 34.2 mmol, 4.43 mL | COCC(CC(=O)OC)=O | C6H10O4
reactant | Sulfuryl chloride | 35.9 mmol, 2.91 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | methyl 2-chloro-4-methoxy-3-oxobutanoate | 34 mmol, 6.18 g | ClC(C(=O)OC)C(COC)=O | C6H9ClO4
reactant | thiourea | 34 mmol, 1.9 mL | NC(=S)N | CH4N2S
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | DCM | 30.00 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-amino-4-(methoxymethyl)thiazole-5-carboxylate | NC=1SC(=C(N1)COC)C(=O)OC | C7H10N2O3S
